US05068325
2-Amino-6-(3-phenyl-2-propyn-1-yl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 3-(4-isoquinolinyl)acrolein and 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine by reductive amination with sodium cyanoborohydride (in methanol in the presence of I equivalent of glacial acetic acid). The crude product is purified by column chromatography on silica gel (acetone/methanol/conc. ammonia =50:12:0.5). At first the title compound (A) is eluted. Yield: 4% of theory, Melting point: 205°-208° C. (ether).

reactant | 3-(4-isoquinolinyl)acrolein | C1=NC=C(C2=CC=CC=C12)C=CC=O | C12H9NO
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 2-Amino-6-(3-phenyl-2-propyn-1-yl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | NC=1SC=2CCN(CCC2N1)CC#CC1=CC=CC=C1 | C16H17N3S
